US07282588B2
Preparation of N-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N′-(1-methylethyl)urea
A solution of 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline (0.19 mmol) in dichloromethane (1 mL) was treated with pyridine (0.39 mmol) and isopropyl isocyanate (0.39 mmol). The reaction mixture was stirred for 18 h at room temperature and poured into water (1 mL), followed by extraction with (3×3 mL) ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Purification of the residue by Gilson reverse phase HPLC provided the title product as a white powder (45%). ESMS [M+H]+: 389.2

reactant | 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | 0.19 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(N)C=C2 | C18H17N5
reactant | pyridine | 0.39 mmol | N1=CC=CC=C1 | C5H5N
reactant | isopropyl isocyanate | 0.39 mmol | C(C)(C)N=C=O | C4H7NO
reactant | water | 1 mL | O | H2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N′-(1-methylethyl)urea | 45% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)NC(=O)NC(C)C | C22H24N6O
